US08865744B1
6.30 g (22.63 mmol) of (1-methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester are dissolved in DCM (74 mL) and 17.4 mL (226 mmol) TFA are added. The reaction is stirred at RT for 16 h. The solvent is removed under reduced pressure. The crude product is diluted with diethylether at 40° C., the precipitate is filtered, washed with water and dried. The product is dissolved in MeOH, polymer supported hydrogencarbonate (PL-HCO3 MP Resin, Agilent Technologies) is added and the suspension is stirred for a few minutes. The resin is filtered and the solvent is removed under reduced pressure to afford 4.00 g of 1-methanesulfonyl-piperidin-4-ylamine. Yield: 99%; ESI-MS: 179 [M+H]+; HPLC (Rt): 0.26 min (method E)

reactant | (1-methanesulfonyl-piperidin-4-yl)-carbamic acid tert-butyl ester | 22.63 mmol, 6.30 g | C(C)(C)(C)OC(NC1CCN(CC1)S(=O)(=O)C)=O | C11H22N2O4S
reactant | TFA | 226 mmol, 17.4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 74 mL | C(Cl)Cl | CH2Cl2
product | 1-methanesulfonyl-piperidin-4-ylamine | 4.00 g, Yield: 99% | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
